data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_152877_2,[C:1]12([H:8])[C:2]([H:10])([H:11])[C:3]([H:12])([H:13])[C:4]1([C:5](=[O:7])[H:9])[C:6]2([H:14])[H:15]>>[C:1]1([C:4]([C:5](=[O:7])[H:9])=[C:6]([H:14])[H:15])([H:8])[C:2]([H:10])([H:11])[C:3]1([H:12])[H:13],70.04154999997454
MR_227092_1,[C:1]([C:2]([C:4]([N:5]([H:10])[H:11])=[O:8])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([N:6]=[O:7])[H:9]>>[C:1]1([C:3]([H:14])([H:15])[H:16])([H:9])[C:2]([H:12])([H:13])[C:4]1([N:5]([H:10])[H:11])[O:8][N:6]=[O:7],66.55264999997286
MR_268199_0,[C:1]([N:2]([H:7])[H:8])(=[O:4])[N:5]1[C:3]([H:9])=[N:6]1>>[c:1]1([N:2]([H:7])[H:8])[o:4][c:3]([H:9])[n:6][n:5]1,33.86994000002147
MR_606542_0,[C:1]([N:4]([N:6]([H:12])[H:13])[O:7][H:9])([N:5]([C:2]([H:14])([H:15])[H:19])[C:3]([H:16])([H:17])[H:18])([O:8][H:10])[H:11]>>[C:1]([N:4]([N:5]([C:2]([H:14])([H:15])[H:19])[C:3]([H:16])([H:17])[H:18])[N:6]([H:12])[H:13])([O:7][H:9])([O:8][H:10])[H:11],62.96899749999639
MR_166242_0,[C:1]1([C:4]([C:2]([C:5]([H:15])([H:16])[H:17])([O:7][H:8])[H:10])([H:13])[H:14])([H:9])[C:3]([H:11])([H:12])[O:6]1>>[C:1]1([C:3]([O:6][H:10])([H:11])[H:12])([H:9])[C:2]([C:5]([H:15])([H:16])[H:17])([O:7][H:8])[C:4]1([H:13])[H:14],70.1206150000246
MR_391828_1,[C:1]([N:4]1[C:5](=[O:9])[C:6]1([C:2]([H:16])([H:17])[H:18])/[C:8](=[N:3]/[N:7]([H:10])[H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([n:4]1[c:5](=[O:9])[n:3]([N:7]([H:10])[H:11])[c:8]([H:12])[c:6]1[C:2]([H:16])([H:17])[H:18])([H:13])([H:14])[H:15],30.72867499999816
MR_144141_0,[C:1]1([C:3]([H:12])([H:13])[H:14])([O:7][H:8])[C:2]([C:4]([H:15])([H:16])[H:17])([H:9])[C:6]([H:11])=[C:5]1[H:10]>>[C:1]([C:2]([C:4]([H:15])([H:16])[H:17])([C:6](=[C:5]([H:8])[H:10])[H:11])[H:9])([C:3]([H:12])([H:13])[H:14])=[O:7],65.11818499999194
MR_575062_2,[C@:1]([C:2]([H:14])([H:15])[H:16])([N:3]([N:5]([H:12])[H:13])[O:6][H:9])([C:4]([O:7][H:10])=[O:8])[H:11]>>[C@@:1]([C:2]([H:14])([H:15])[H:16])([N:3]([C:4]([O:7][H:10])=[O:8])[N:5]([H:12])[H:13])([O:6][H:9])[H:11],69.35380999996312
MR_42757_2,[C:1](\[C:2]([H:11])([H:12])[H:13])(=[C:4](/[O:6][H:9])[O:7][C:5]([C:3]([H:14])([H:15])[H:16])=[O:8])[H:10]>>[C:1]([C:2]([H:11])([H:12])[H:13])([C:4]([O:6][H:9])=[O:7])([C:5]([C:3]([H:14])([H:15])[H:16])=[O:8])[H:10],34.43092499999622
MR_397847_2,[C:1](/[C:4]([N:3]([N:2]([O:5][H:7])[H:8])[H:9])=[N:6]\[H:10])([H:11])([H:12])[H:13]>>[C:1](/[C:4]([N:2]([N:3]([H:8])[H:9])[O:5][H:7])=[N:6]\[H:10])([H:11])([H:12])[H:13],12.534312499992524
MR_661644_1,[C:1]1([N:6]([H:11])[H:12])([O:7][H:9])[C:2]([C:4]([H:16])([H:17])[H:18])([O:8][H:10])[N:5]1[C:3]([H:13])([H:14])[H:15]>>[C:1](/[C:2]([C:4]([H:16])([H:17])[H:18])=[N:5]\[C:3]([H:13])([H:14])[H:15])([N:6]([H:11])[H:12])([O:7][H:9])[O:8][H:10],42.38134999996944
MR_215433_0,[C:1](/[C:3]([N:2]([N:4]=[O:6])[H:7])=[N:5]\[H:8])([H:9])([H:10])[H:11]>>[C:1](/[C:3](=[N:5]\[H:8])[O:6]/[N:4]=[N:2]/[H:7])([H:9])([H:10])[H:11],44.96790500000216
MR_268247_0,[C:1]([C:2](/[C:3]([N:5]([H:12])[H:13])=[N:7]/[H:14])([H:15])[H:16])([N:4]([H:10])[H:11])([O:6][H:8])[H:9]>>[C:1](\[C:2]([C:3]([N:5]([H:12])[H:13])([O:6][H:8])[N:7]([H:11])[H:14])([H:15])[H:16])(=[N:4]/[H:10])[H:9],41.681059999989714
MR_103323_0,[C:1](/[C:5](=[C:4](/[C:3]([C:2]([H:14])([H:15])[H:16])=[C:6]([H:17])[H:18])[H:12])[H:13])([O:7][O:8][H:9])([H:10])[H:11]>>[C:1](=[C:5]([C:4]([C:3]([C:2]([H:14])([H:15])[H:16])=[C:6]([H:17])[H:18])([O:7][O:8][H:9])[H:12])[H:13])([H:10])[H:11],47.462217499946746
MR_183192_0,[C:1](/[N:8]=[C:3]([N:5]([H:10])[H:11])/[N:7]=[C:4](/[C:2]([H:15])([H:16])[H:17])[O:6][H:9])([H:12])([H:13])[H:14]>>[C:1]([N:8]1[C:3]([N:5]([H:10])[H:11])=[N:7][C:4]1([C:2]([H:15])([H:16])[H:17])[O:6][H:9])([H:12])([H:13])[H:14],21.2703674999797
MR_639347_2,[C:1]([C:2]1([H:9])[C:3]([H:10])([H:11])[N:6]1[H:7])([O:4][H:8])=[O:5]>>[C:1](=[C:2]([N:6]=[C:3]([H:10])[H:11])[H:9])([O:4][H:8])[O:5][H:7],66.65744249995797
MR_186396_0,[C:1](/[C:2]([N:3]([H:7])[H:8])=[C:4](\[N:6]=[C:5]([H:13])[H:14])[H:9])([H:10])([H:11])[H:12]>>[C:1]([C:2]1([N:3]([H:7])[H:8])[C:4]([H:9])=[N:6][C:5]1([H:13])[H:14])([H:10])([H:11])[H:12],43.2673799999796
MR_689768_1,[N:1](/[C:4](=[C:3](/[O:7][H:10])[H:12])[H:13])([O:5][C:2]([O:6][H:9])=[O:8])[H:11]>>[N:1]1([H:11])[C@@:4]([C@:3]([C:2]([O:6][H:9])=[O:8])([O:7][H:10])[H:12])([H:13])[O:5]1,68.73823249998352
MR_64272_1,[C:1]([N:3]([N:4](/[C:6](=[N:8]/[H:11])[H:12])[H:9])/[C:5]([C:2]([H:16])([H:17])[H:18])=[N:7]\[H:10])([H:13])([H:14])[H:15]>>[C:1]([N:3]([N:4](/[C:5]([C:2]([H:16])([H:17])[H:18])=[N:7]\[H:10])[H:9])/[C:6](=[N:8]/[H:11])[H:12])([H:13])([H:14])[H:15],61.79682749999529
MR_27691_0,[C:1](/[C:4](=[N:5]/[C:2]([N:3]([H:7])[H:8])=[O:6])[H:9])([H:10])([H:11])[H:12]>>[C:1]([C:4]1([H:9])[N:5]=[C:2]([N:3]([H:7])[H:8])[O:6]1)([H:10])([H:11])[H:12],41.64529250000868
MR_690211_1,[C:1]([C:5]12[N:2]([H:9])[C:3]1([N:6]([H:10])[H:11])[C:4]([N:7]([H:12])[H:13])=[C:8]2[H:14])([H:15])([H:16])[H:17]>>[C:1]([c:5]1[n:2]([H:9])[c:3]([N:6]([H:10])[H:11])[c:4]([N:7]([H:12])[H:13])[c:8]1[H:14])([H:15])([H:16])[H:17],25.684830000034395
